US07795267B2
Tetrahydro-3-oxo-N,1,1-triphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (85 mg, 0.29 mmol) in toluene (3 mL) was added phenyl isocyanate (70 mg, 0.59 mmol), and the mixture was stirred at 60° C. for 4 hours. The reaction solution was concentrated. Then, the residue was purified with silica gel column chromatography (hexane:ethyl acetate=2:1) and crystallized from diisopropyl ether to obtain the title compound (0.12 g, yield 99%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.29 mmol, 85 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | phenyl isocyanate | 0.59 mmol, 70 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | Tetrahydro-3-oxo-N,1,1-triphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.12 g, yield 99% | O=C1OC(C2N1CCN(C2)C(=O)NC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H23N3O3
